US07737149B2
2-(1,3,4,6,7,8,9,9a-octahydropyrido[2,1-c]pyrazin-2-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]pyrimidine-5-carboxamide
Trimethylaluminium (2M in toluene, 1.45 mL, 2.90 mmol) was added dropwise to a stirred suspension of 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine (286 mg, 1.16 mmol) and methyl 2-(1,3,4,6,7,8,9,9a-octahydropyrido[2,1-c]pyrazin-2-yl)pyrimidine-5-carboxylate (320 mg, 1.16 mmol) in toluene (5.8 mL) at 25° C. The resulting solution was stirred at ambient temperature for 18 h and then at 60° C. for 2 h. The reaction mixture was quenched with methanol (20 mL) and treated with HCl (2N aqueous solution, until a freely stirred solution was obtained). The crude product was purified by ion exchange chromatography, using an SCX column. The desired product was eluted from the column using 7M NH3/MeOH and evaporated to dryness to afford impure product. The impure material was purified by preparative HPLC, using decreasingly polar mixtures of water (containing 0.1% NH3) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford the title compound (238 mg, 42%) as a solid.

reactant | Trimethylaluminium | 2.90 mmol, 2M, 1.45 mL | C[Al](C)C
reactant | 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine | 1.16 mmol, 286 mg | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)N | C13H17N3O2
reactant | methyl 2-(1,3,4,6,7,8,9,9a-octahydropyrido[2,1-c]pyrazin-2-yl)pyrimidine-5-carboxylate | 1.16 mmol, 320 mg | C1N(CCN2C1CCCC2)C2=NC=C(C=N2)C(=O)OC | C14H20N4O2
solvent | toluene | 5.8 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(1,3,4,6,7,8,9,9a-octahydropyrido[2,1-c]pyrazin-2-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]pyrimidine-5-carboxamide | 238 mg, 42% | C1N(CCN2C1CCCC2)C2=NC=C(C=N2)C(=O)NC=2NN=C(C2)CCC2=CC(=CC(=C2)OC)OC | C26H33N7O3
